Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Scrotal/penile swelling and erythema 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ M with PMHx notable for recurrent 
penile/scrotal cellulitis who presents to the ED on ___ with 
concern for scrotal and penile cellulitis.  

Of note, the patient was recently admitted to ___ from 
___ to ___ for penile and scrotal erythema and swelling 
consistent with cellulitis.  Initially received vancomycin/Zosyn 
which was narrowed to doxycycline and augmentin with plan for 
one week of antibiotiics.  Urology was consulted and recommended 
outpatient follow up for consideration of circumcision given 
history of recurrent penile/scrotal cellulitis. While at 
___ his UA/UCx was negative and a scrotal u/s from ___ 
was notable for scrotal wall thickening congruent with the 
reported clinical presentation of cellulitis. No evidence for 
scrotal abscess and testes and epididymides were normal.  

In the ED, vitals were: afebrile, HRs ___, BPs slightly 
hypertensive to 157/79
Exam: edematous & erythematous male anatomy, foreskin difficult 
to withdraw and reduce, testicles non tender, no discharge or 
lesions, no crepitus, no tenderness, no CVAT.  
Labs: hemolyzed specimen, Cr 0.8, WBC 8.4, lactate 1.5 
They were given: IV vancomycin, IV piperacillin-tazobactam
Urology was consulted who recommended admission to medicine for 
IV antibiotics and scrotal elevation and ice as needed.

On evaluation, Mr. ___ is accompanied by his wife and 
daughter-in-law.  He states his current episode of scrotal 
swelling and redness was exactly similar to an episode he had in 
?___ at ___. He was treated with antibiotics at 
that time and had resolution. He states a few days prior to his
presentation to ___ on ___, he developed chills, low 
grade temperature to 99 and myalgias along with scrotal swelling 
and redness. At ___, his scrotal swelling and redness 
improved "mildly" and he was discharged to home. He reports 
taking his antibiotics as prescribed. He believes then the 
improvement "stalled" and thus he represented. He doesn't 
believe the scrotum appears any worse, possibly? more red but 
unsure. His myalgias and chills resolved. He denies 
testicular/scrotal pain, itchy, skin changes, discharge
from urethra, nausea, vomiting, diarrhea, abdominal pain, 
dysuria, urinary habit changes, anorexia, cough, chest pain, 
dyspnea, headache, muscle weakness. 

 
Past Medical History:
- Scrotal/penile cellulitis at ___ ___
- HTN
- Depression
- Ear drum replacement surgery ___ c/b "staph infection" s/p
treatment, resolved
 
Social History:
___
Family History:
No family history of GU conditions - no prostate or bladder 
conditions. Sister had MS (___). He is ___ of a set of 
triplets but other siblings died shortly after birth. 
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION
===========================

VITALS: T 97.8, BP 156/84, HR 60, RR 18, 96% RA 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. 
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
GU: Erythematous and edematous scrotal skin and penis. No 
scrotal tenderness, no testicular tenderness, no epididymal 
tenderness. No rash otherwise or discharge noted. Difficult to 
retract foreskin due to edema. No inguinal LAD. 
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. CN2-12
intact. ___ strength throughout. Normal sensation. 

PHYSICAL EXAM AT DISCHARGE
===========================

24 HR Data (last updated ___ @ 450)
    Temp: 97.7 (Tm 98.2), BP: 119/62 (119-142/62-78), HR: 64
(59-64), RR: 18 (___), O2 sat: 95% (95-98), O2 delivery: RA   

GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. 
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants. 
GU: Erythematous and edematous scrotal skin and penis - mildly 
improved. No scrotal tenderness, no testicular tenderness, no 
epididymal tenderness. No rash otherwise or discharge noted. 
Difficult to retract foreskin due to edema. No inguinal LAD. 
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. CN2-12 
intact. ___ strength throughout. Normal sensation. 
 
Pertinent Results:
LABS ON ADMISSION
==================

___ 05:33PM BLOOD WBC-8.4 RBC-4.99 Hgb-14.2 Hct-44.4 MCV-89 
MCH-28.5 MCHC-32.0 RDW-12.1 RDWSD-39.2 Plt ___
___ 05:33PM BLOOD Neuts-71.5* Lymphs-18.1* Monos-7.5 
Eos-1.5 Baso-0.6 Im ___ AbsNeut-6.02 AbsLymp-1.53 
AbsMono-0.63 AbsEos-0.13 AbsBaso-0.05
___ 05:33PM BLOOD Glucose-103* UreaN-15 Creat-0.8 Na-142 
K-5.2 Cl-106 HCO3-24 AnGap-12
___ 05:33PM BLOOD ALT-107* AST-81* AlkPhos-61 TotBili-0.3
___ 05:33PM BLOOD Albumin-4.3
___ 06:57PM BLOOD Lactate-1.5

IMAGING AND MICROBIOLOGY
========================

Scrotal Ultrasound (___)

IMPRESSION: Stable bilateral scrotal wall thickening edema with 
no fluid collection identified. 

CT Abd/Pelvis (___)

IMPRESSION:  
1. Redemonstration of the scrotal and penile edema, with no 
abdominal or pelvic cause identified.  
2. 2 mm structure in the midpole of the left kidney, which could 
represent a nonobstructing caliceal stone. No hydronephrosis.  
3. Mild prostatomegaly. 

URINE CULTURE (Final ___:    NO GROWTH. 

___ 6:50 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 

LABS AT DISCHARGE
==================

___ 07:25AM BLOOD WBC-5.4 RBC-4.74 Hgb-13.3* Hct-41.2 
MCV-87 MCH-28.1 MCHC-32.3 RDW-11.9 RDWSD-38.2 Plt ___
___ 07:25AM BLOOD Glucose-93 UreaN-16 Creat-0.8 Na-142 
K-4.4 Cl-105 HCO3-25 AnGap-12
___ 07:25AM BLOOD ALT-62* AST-34 AlkPhos-57 TotBili-0.4
___ 07:25AM BLOOD TotProt-6.5 Albumin-3.8 Globuln-2.7 
Calcium-9.3 Phos-3.3 Mg-1.9
 
Brief Hospital Course:
Patient is a ___ y/o M with PMHx notable for recurrent 
penile/scrotal swelling and erythema who presented to the ED on 
___ with concern for worsening of scrotal and penile redness 
and swelling in the setting of recent admission to ___ 
from ___ for penile/scrotal cellulitis.  

ACUTE ISSUES:
=============
# Scrotal/penile swelling and erythema 
Patient initially presented to ___ on ___ for non-tender 
scrotal/penile swelling and erythema. He was placed on IV 
vanc/zosyn for suspected cellulitis with improvement of his 
symptoms, and was eventually transitioned to PO doxycycline and 
augmentin with plan for 1 week of antibiotics. Patient presented 
to the ___ ED on ___ after observing no further improvement 
of his swelling and erythema. In the ED, patient was given 1 
dose of IV vanc/zosyn. He was afebrile, HD stable, and had no 
leukocytosis. On the floor, he was transitioned to IV 
vanc/ctx/flagyl on ___. A scrotal ultrasound demonstrated 
stable bilateral scrotal wall thickening edema with no fluid 
collection identified. CT A/P demonstrated scrotal and penile 
edema, with no abdominal or pelvic cause identified. Patient was 
switched to PO levofloxacin on ___ per ID for additional 
coverage of atypical organisms. Given the unusual presentation 
of his suspected cellulitis, dermatology was consulted during 
his hospitalization to evaluate for other etiologies of his 
scrotal/penile swelling and erythema - with a negative work-up. 
ID determined that patient should be discharged on a course of 
500mg PO levofloxacin to be completed on ___, and should have 
follow-up with allergy as an outpatient to evaluate for 
potential angioedema as an etiology of his presentation. Over 
the course of his hospitalization, patient noted gradual 
improvement of his scrotal/penile swelling and erythema. The 
etiology of his presentation is unclear, given that his clinical 
picture is not entirely consistent with cellulitis (no fever, 
leukocytosis, tenderness), and that he's had a previous episode 
back several years ago that resolved with antibiotics vs. time.  
  

CHRONIC ISSUES:
===============
# HTN: Patient was continued on his home atenolol. 

# Depression: Patient was continued on his home duloxetine.

TRANSITIONAL ISSUES:
===============
[]Patient will have dermatology follow-up in ___ weeks; 
scheduler will call patient within the next week. ___

[]ID would like patient to see allergist for evaluation for 
angioedema as an outpatient; patient will call ___ to 
make an appointment. 

[]Patient was found to have a 2mm structure in the midpole of 
the left kidney, which could represent a nonobstructing caliceal 
stone, as well as mild prostatomegaly, on CT A/P. He should 
arrange follow-up with his PCP.  
  
 
Medications on Admission:
1. Doxycycline Hyclate 100 mg PO Q12H 
2. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
3. Atenolol 25 mg PO DAILY 
4. DULoxetine 120 mg PO DAILY 

 
Discharge Medications:
1.  Levofloxacin 500 mg PO Q24H 
Please take daily until ___.  
2.  Atenolol 25 mg PO DAILY  
3.  DULoxetine 120 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Scrotal/penile swelling and erythema NOS
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?  
- You were in the hospital for swelling and redness of your 
penis and scrotum, which were not improving on the home 
antibiotic regimen you received from ___. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were given additional antibiotics by IV and by mouth. You 
will be discharged on an antibiotic that you can take by mouth, 
which you will take daily until ___. 
- You were evaluated by doctors ___ in ___ 
disease and dermatology. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.
- You will have a follow-up appointment with dermatology; they 
will call to schedule your appointment in the next week.
- Per recommendations by the infectious disease doctors, you 
should arrange a an appointment with the Allergy clinic. You can 
make an appointment at ___. 

We wish you the best!

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___